US04666927
6Aminocaproic acid is reacted with 3-benzyloxy-2-methyl-4-pyrone in an exactly analogous procedure to that described in Example 2 for the reaction of the latter compound with β-alanine to give 3-benzyloxy-1-(5'-carboxypentyl)-2-methylpyrid-4-one in 70% yield, this compound being obtained after recrystallisation from ethanol/acetone (1:1 v/v) as white crystals, m.p. 145°-147° C.

reactant | 6Aminocaproic acid | NCCCCCC(=O)O | C6H13NO2
reactant | 3-benzyloxy-2-methyl-4-pyrone | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C | C13H12O3
reactant | β-alanine | NCCC(=O)O | C3H7NO2
product | 3-benzyloxy-1-(5'-carboxypentyl)-2-methylpyrid-4-one | 70% yield | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCCCCC(=O)O)C | C19H23NO4
